US05719166
j. (9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracene-9-carboxaldehyde
(9RS,10RS,12RS)-9-Amino-2-chloro-12-hydroxy-9,10-dihydro-9,10-ethanoanthracene prepared as in Example 1i (445.5 g, 1.64 moles) was dissolved in glacial acetic acid (4.0 L), and the resulting solution cooled to 10° C. A solution of sodium nitrite (340.0 g, 4.93 moles) in water (1.4 L) was added to the reaction mixture over a period of 1.75 h. The temperature of the mixture was maintained at 10° C. during the addition of the nitrite, and for 4 h thereafter. The mixture was then stirred overnight and allowed to warm to room temperature. TLC analysis [silica gel/toluene:ethyl acetate (4:1)] showed complete conversion of the amino alcohol (Rf =0.12) to the desired aldehyde (Rf =0.80). The reaction mixture was diluted with water (4 L) which caused precipitation of a reddish-brown tar. The aqueous supernatant was decanted away from the tar, diluted with an equal volume of crushed ice, then adjusted to pH=5-6 with solid sodium hydroxide. The resulting aqueous mixture was extracted with ethyl acetate (3×1.5 L). The combined ethyl acetate extracts were used to redissolve the tar, and the resulting solution washed with brine (2×1 L) then dried over magnesium sulfate. Filtration, followed by removal of the solvent in vacuo, gave the crude product as a thick brown oil. Purification of this material by column chromatography over silica gel, eluting with a solvent mixture of methylene chloride:hexane (1:1), afforded a thick yellow oil which crystallized on standing (311.7 g, 74.6%). Trituration with diethyl ether:hexane (1:6-700 ml) gave a first crop of pure title compound as an off-white crystalline solid (224.1 g, 53.6%), mp 91°-92° C.

reactant | (9RS,10RS,12RS)-9-Amino-2-chloro-12-hydroxy-9,10-dihydro-9,10-ethanoanthracene | NC12C3=CC=CC=C3C(C=3C=CC(=CC13)Cl)CC2O | C16H14ClNO
reactant | sodium nitrite | 4.93 moles, 340.0 g | N(=O)[O-].[Na+]
reactant | nitrite | N(=O)[O-]
reactant | amino alcohol | NO | H3NO
solvent | acetic acid | 4.0 L | C(C)(=O)O | C2H4O2
solvent | water | 1.4 L | O | H2O
solvent | water | 4 L | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracene-9-carboxaldehyde | 224.1 g, 53.6% | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)C=O | C16H11ClO
